US07700595B2
[3-(3-Benzyl-8-chlorocinnolin-4-yl)phenyl][2-chloro-3-(trifluoromethyl)benzyl]amine
The title compound was prepared from [3-(3-benzyl-8-chlorocinnolin-4-yl)phenyl]amine and 2-chloro-3-trifluoromethylbenzaldehyde according to the procedure of Step 5 Example 6. MS (ESI) m/z 538.

reactant | [3-(3-benzyl-8-chlorocinnolin-4-yl)phenyl]amine | C(C1=CC=CC=C1)C=1N=NC2=C(C=CC=C2C1C=1C=C(C=CC1)N)Cl | C21H16ClN3
reactant | 2-chloro-3-trifluoromethylbenzaldehyde | ClC1=C(C=O)C=CC=C1C(F)(F)F | C8H4ClF3O
product | [3-(3-Benzyl-8-chlorocinnolin-4-yl)phenyl][2-chloro-3-(trifluoromethyl)benzyl]amine | C(C1=CC=CC=C1)C=1N=NC2=C(C=CC=C2C1C=1C=C(C=CC1)NCC1=C(C(=CC=C1)C(F)(F)F)Cl)Cl | C29H20Cl2F3N3
